US07494760B2
Synthesis of (3-(4-(4-methylphenylsulfonyloxy)phenylsulfonyloxy)imino-3H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile
In 490 g of tetrahydrofuran were dissolved 45 g (0.19 mol) of (3-(hydroxy)imino-3H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile in Synthesis Example 14 and 61.8 g (0.19 mol) of 4-(4′-methylphenylsulfonyloxy)benzenesulfonyl chloride in Synthesis Example 7. To the solution cooled, 20.6 g (0.20 mol) of triethylamine was added dropwise such that the temperature might not exceed 10° C. The solution was allowed to ripen for 1 hour at room temperature, after which 150 g of water and 500 g of dichloromethane were added. The organic layer was separated, and washed with 150 g of water three times. The organic layer was concentrated in vacuum to 130 g. Methanol was added to the concentrate for recrystallization, followed by filtration and drying. There was obtained 83 g of yellow crystals. The crystals were purified by silica gel column chromatography (eluent, dichloromethane). The elute was concentrated, followed by recrystallization from methanol, filtration and drying. There was obtained 77 g of yellow crystals (yield 72%).

reactant | (3-(hydroxy)imino-3H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile | 0.19 mol, 45 g | ON=C1C(SC=C1)=C(C#N)C1=C(C=CC=C1)C | C13H10N2OS
reactant | 4-(4′-methylphenylsulfonyloxy)benzenesulfonyl chloride | 0.19 mol, 61.8 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO5S2
reactant | triethylamine | 0.20 mol, 20.6 g | C(C)N(CC)CC | C6H15N
reactant | water | 150 g | O | H2O
solvent | tetrahydrofuran | 490 g | O1CCCC1 | C4H8O
solvent | dichloromethane | 500 g | ClCCl | CH2Cl2
product | (3-(4-(4-methylphenylsulfonyloxy)phenylsulfonyloxy)imino-3H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile | 83 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)S(=O)(=O)ON=C1C(SC=C1)=C(C#N)C1=C(C=CC=C1)C | C26H20N2O6S3
